US05025031
Sulfamic acid 2-(3-hydroxyphenoxy)ethyl ester
To a solution of 17.1 g (.053 mole) of sulfamic acid 2-[3-(phenylmethoxy)phenoxy]ethyl ester in 250 ml of tetrahydrofuran was added 0.5 teaspoon of 5% palladium on carbon catalyst and the mixture was hydrogenated in a Parr bottle at 40° C. for 2 hr. The catalyst was removed and a fresh 0.5 teaspoon of 5% palladium on carbon catalyst was added and the mixture was hydrogenated at 40° C. for 19 hr, whereby hydrogen uptake ceased. The catalyst was removed by filtration through Celite® and the solvent was evaporated under reduced pressure to yield 12.3 g of a brown, viscous oil that solidified after standing for five weeks at ambient temperature. The solid was triturated with ethyl ether-petroleum ether into a paste. The solvents were decanted and the paste was dried to yield 8.9 g (72%) a white solid, mp 56°-60° C.

reactant | sulfamic acid 2-[3-(phenylmethoxy)phenoxy]ethyl ester | .053 mole, 17.1 g | C1(=CC=CC=C1)COC=1C=C(OCCOS(N)(=O)=O)C=CC1 | C15H17NO5S
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.5 teaspoon | [Pd] | Pd
product | Sulfamic acid 2-(3-hydroxyphenoxy)ethyl ester | 8.9 g, 72% | OC=1C=C(OCCOS(N)(=O)=O)C=CC1 | C8H11NO5S
